US07678783B2
To a solution of methyl 2-tert-butoxycarbonylamino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate (87 mg, 0.26 mmol) and DIEA (0.056 mL, 0.32 mmol) in MeCN (4.6 mL) was added N-phenyltrifluoromethanesulfonimide (114 mg, 0.32 mmol). The reaction was stirred at rt overnight, concentrated, diluted with EtOAc and washed with H2O and brine. Drying, solvent evaporation and flash chromatography (silica gel, 0-25% EtOAc/hexanes) gave 3-(2-(methoxycarbonyl)-2-tert-butoxycarbonylamino-3-fluoropropyl)phenyl trifluoromethanesulfonate. 1H NMR (400 MHz, CDCl3) δ 7.39-7.03 (m, 4H), 5.45 (bs, 1H), 5.11-4.62 (ABX, J=46 Hz, J=8.7 Hz, 2H), 3.79 (s, 3H), 3.55 (d, J=13 Hz, 1H), 3.04 (d, J=13 Hz, 1H), 1.48 (s, 9H).

reactant | methyl 2-tert-butoxycarbonylamino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate | 0.26 mmol, 87 mg | C(C)(C)(C)OC(=O)NC(C(=O)OC)(CC1=CC(=CC=C1)O)CF | C16H22FNO5
reactant | DIEA | 0.32 mmol, 0.056 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-phenyltrifluoromethanesulfonimide | 0.32 mmol, 114 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | MeCN | 4.6 mL | CC#N | C2H3N
product | 3-(2-(methoxycarbonyl)-2-tert-butoxycarbonylamino-3-fluoropropyl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=CC=C1)CC(CF)(NC(=O)OC(C)(C)C)C(=O)OC)(F)F | C17H21F4NO7S
